US06949579B2
N-(5-bromo-6-chloro-1H-indazol-3-yl)butanamide
12.6 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 940 mg of N-[5-bromo-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 30 cm3 of tetrahydrofuran. The medium is then maintained at 67° C. for 19 hours and is then allowed to return to room temperature and 50 cm3 of ethyl acetate are added. The organic phase is washed with 2×50 cm3 of saturated aqueous sodium hydrogen carbonate solution and then with 50 cm3 of saturated aqueous sodium chloride solution, dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2 kPa; 45° C.). The residue is purified by chromatography under an argon pressure of 50-kPa, on a column of silica gel (particle size 40-60 μm; diameter 3.5 cm), eluting with a cyclohexane/ethyl acetate mixture (70/30 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.) and the residue is taken up in 15 cm3 of diisopropyl ether, filtered off on a sinter funnel and washed successively with 5 cm3 of ethyl acetate and then with 2×10 cm3 of diisopropyl ether. After drying (90 Pa; 50° C.), 460 mg of N-(5-bromo-6-chloro-1H-indazol-3-yl)butanamide are obtained in the form of a white solid melting at 250° C.

reactant | tetrabutylammonium fluoride | 12.6 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[5-bromo-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 940 mg | BrC=1C=C2C(=NN(C2=CC1Cl)COCC[Si](C)(C)C)NC(CCC)=O | C17H25BrClN3O2Si
reactant | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 cm3 | O1CCCC1 | C4H8O
product | N-(5-bromo-6-chloro-1H-indazol-3-yl)butanamide | BrC=1C=C2C(=NNC2=CC1Cl)NC(CCC)=O | C11H11BrClN3O
